US06288062B1
(b) 2-Acetamido-1-(3-methoxyphenyl)-2-(4-pyridyl)ethanone
To a solution of 2-amino-3-methoxy-2-(4-pyridyl)acetophenone hydrochloride (0.5 g, 1.8 mmol) in pyridine (8 mL) was added acetic anhydride (1 mL). The mixture was stirred at rt for 45 min, then poured into H2O. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with sat'd NaCl, then dried over MgSO4. Evaporation of solvent gave a red oil which was purified by flash chromatography, eluting with a solvent gradient of 0-4% MeOH/CHCl3. The title compound was isolated as a yellow oil (0.21 g).

reactant | 2-amino-3-methoxy-2-(4-pyridyl)acetophenone hydrochloride | 1.8 mmol, 0.5 g | Cl.NC(C(=O)C1=CC=CC=C1)C1=C(C=NC=C1)OC
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2O | O | H2O
reactant | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2-Acetamido-1-(3-methoxyphenyl)-2-(4-pyridyl)ethanone | C(C)(=O)NC(C(=O)C1=CC(=CC=C1)OC)C1=CC=NC=C1 | C16H16N2O3
